US04895840
N-[2-[(4-Dimethylaminophenyl)sulfonyl]ethyl]-2-propanamine
2-Chloroethyl 4-dimethylaminophenyl sulfone is reacted as in Preparation 19 with isopropylamine to give the title compound.

reactant | 2-Chloroethyl 4-dimethylaminophenyl sulfone | CN(C1=CC=C(C=C1)S(=O)(=O)CCCl)C | C10H14ClNO2S
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N-[2-[(4-Dimethylaminophenyl)sulfonyl]ethyl]-2-propanamine | CN(C1=CC=C(C=C1)S(=O)(=O)CCNC(C)C)C | C13H22N2O2S
